US07759518B2
According to the general procedure B, 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine (0.182 mmol) was reacted with 2-methyl-5-(trifluoromethyl)furan-3-sulfonyl chloride (0.5 mmol) to form N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)-2-methyl-5-(trifluoromethyl)furan-3-sulfonamide. 1H NMR (CDCl3) δ 2.2 (s, 3H), 5.3 (s, 1H), 6.0 (dt, 1H), 6.8 (s, 1H), 6.95 (s, 1H), 7.0-7.3 (m, 3H), 7.4 (dd, 1H).

reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine | 0.182 mmol | FC1=CC=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N | C12H8F3IN2
reactant | 2-methyl-5-(trifluoromethyl)furan-3-sulfonyl chloride | 0.5 mmol | CC=1OC(=CC1S(=O)(=O)Cl)C(F)(F)F | C6H4ClF3O3S
product | N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)-2-methyl-5-(trifluoromethyl)furan-3-sulfonamide | FC=1C(=C(C=CC1F)NS(=O)(=O)C1=C(OC(=C1)C(F)(F)F)C)NC1=C(C=C(C=C1)I)F | C18H11F6IN2O3S
